US08252806B2
[2-(3,5-Dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-p-tolyl-amine (Compound B9)
Was prepared according to Method B from 2,4-dichloroquinazoline, p-toluidine and 3,5-dimethylpyrazole. Mp. 210.4-216.2° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | p-toluidine | NC1=CC=C(C=C1)C | C7H9N
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | [2-(3,5-Dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-p-tolyl-amine | CC1=NN(C(=C1)C)C1=NC2=CC=CC=C2C(=N1)NC1=CC=C(C=C1)C | C20H19N5
